US05644053
(c) Sodium (E)-(2S,3S,5R)-3-(2-chloro-vinyl)-3-methyl-4,4,7- trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate
385 mg (0.86 mmol) of benzhydryl (E)-(2S,3S,5R)-3-(2-chloro- vinyl) -3- methyl-4,4,7-trioxo-4-thia- 1-aza-bicyclo [3.2.0]heptane-2-carboxylate are dissolved in 2.3 ml of m-cresol under argon and stirred at 50° C. for 4 hours. Subsequently, the mixture was diluted with 15 ml of isobutyl methyl ketone, treated with 0.50 ml of sodium 2-ethylcaproate (2N solution in ethyl acetate) and extracted three times with 8 ml of water each time. The combined aqueous phases were washed once with 10 ml of isobutyl methyl ketone, lyophilized and the lyophilizate obtained was chromatographed over polymeric hydrophobic gel with water as the eluent. Yield: 57 mg (32%) MS: (M--Na)- 278.2 IR (KBr): 1780, 1626, 1564, 1417, 1329, 1145 cm-1

reactant | benzhydryl (E)-(2S,3S,5R)-3-(2-chloro- vinyl) -3- methyl-4,4,7-trioxo-4-thia- 1-aza-bicyclo [3.2.0]heptane-2-carboxylate | 0.86 mmol, 385 mg | Cl/C=C/[C@]1([C@@H](N2C(C[C@H]2S1(=O)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C22H20ClNO5S
reactant | sodium 2-ethylcaproate | 2N, 0.50 ml | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | m-cresol | 2.3 ml | C1=C(C=CC=C1O)C | C7H8O
solvent | isobutyl methyl ketone | 15 ml | CC(=O)CC(C)C | C6H12O
product | Sodium (E)-(2S,3S,5R)-3-(2-chloro-vinyl)-3-methyl-4,4,7- trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | Cl/C=C/[C@]1([C@@H](N2C(C[C@H]2S1(=O)=O)=O)C(=O)[O-])C.[Na+] | InChI=1S/C9H10ClNO5S.Na/c1-9(2-3-10)7(8(13)14)11-5(12)4-6(11)17(9,15)16;/h2-3,6-7H,4H2,1H3,(H,13,14);/q;+1/p-1/b3-2+;/t6-,7+,9+;/m1./s1
